US06770463B2
Preparation of (2R,3S or 2S,3R)-2-[(S)-(4-chlorophenyl)(cyclopropyl)methyl]-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-3-hydroxybutanoic acid (SRS or SRR/Diastereomer E)
A mixture of methyl (2R,3S or 2S,3R)-3-(acetyloxy)-2-[(S)-(4-chlorophenyl)(cyclopropyl)methyl]-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)butanoate (Diastereomer B) (0.80 g, 1.50 mmol), aqueous sodium hydroxide (25 ml), methanol (20 ml) and tetrahydrofuran (5 ml) is refluxed for 1 hour. The organic solvents are removed in vacuo, the mixture is diluted with ethyl acetate and acidified to pH 3 with concentrated hydrochloric acid. The organic layer is separated, dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound as a colorless semi solid, which is characterized by 1HNMR and 19FNMR and used without further purification.

reactant | 3-(acetyloxy)-2-[(S)-(4-chlorophenyl)(cyclopropyl)methyl]-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)butanoate | 1.50 mmol, 0.80 g | C(C)(=O)OC(C(C(=O)[O-])(F)[C@@H](C1CC1)C1=CC=C(C=C1)Cl)CC1=CC(=C(C=C1)F)OC1=CC=CC=C1
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[(S)-(4-chlorophenyl)(cyclopropyl)methyl]-2-fluoro-4-(4-fluoro-3-phenoxyphenyl)-3-hydroxybutanoic acid | ClC1=CC=C(C=C1)[C@@H](C(C(=O)O)(C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)O)F)C1CC1 | C26H23ClF2O4
